US05324747
A mixture of 8.05 g of 4-[(decylamino)carbonyl]nitrobenzene and 2.5 g of 10% palladium on carbon in 175 ml of THF was shaken under an initial hydrogen pressure of 54 psi in a Parr Hydrogenator for 17 hours. The catalyst was removed by filtration and the filtrate was concentrated to a solid which was triturated with hexane and filtered to give 6.88 g (95% yield, mp 117°-119°) of 4-[(decylamino)carbonyl]benzenamine. The structure was confirmed by the nmr spectrum.

reactant | 4-[(decylamino)carbonyl]nitrobenzene | 8.05 g | C(CCCCCCCCC)NC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C17H26N2O3
catalyst | palladium on carbon | 2.5 g | [Pd] | Pd
solvent | THF | 175 ml | C1CCOC1 | C4H8O
product | 4-[(decylamino)carbonyl]benzenamine | 6.88 g, 95% yield | C(CCCCCCCCC)NC(=O)C1=CC=C(C=C1)N | C17H28N2O
